US08426447B2
A flask was charged with (S)-2-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (300 mg, 0.787 mmol), TEA (0.219 ml, 1.573 mmol), DCM (5 mL) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (337 mg, 0.944 mmol). The solution was stirred at RT overnight. The solution was loaded directly on a silica column. The product was purified via silica gel column chromatography (RediSep 12 g column) using 5-25% 90/10/1 (DCM/MeOH/ammonia) in DCM to afford (S)-2-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate as a yellow solid.

reactant | (S)-2-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.787 mmol, 300 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)C=2C(=NC=CC2)F)N1 | C20H13F2N3O3
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.944 mmol, 337 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C2OC=3C=CC(=CC3[C@@]3(C2=C1)N=C(OC3)N)C=3C(=NC=CC3)F)F)(F)F | C21H12F5N3O5S
